### PR TITLE
[Merged by Bors] - fix(Algebra/MonoidWithZeroHom): normalize to `.toMonoidWithZeroHom`

### PR DESCRIPTION
**Pull request by jjdishere**
As discussed in [#mathlib4 > Mathlib's morphism hierarchy](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.27s.20morphism.20hierarchy/with/554383157), this PR fixes the normalization direction from `.ofClass f` to `f.toMonoidWithZeroHom`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 1]
```diff
@@ -186,11 +186,11 @@ theorem coe_fn_inj {φ₁ φ₂ : A →ₐ[R] B} : (φ₁ : A → B) = φ₂ ↔
 theorem coe_ringHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+* B) := fun φ₁ φ₂ H =>
   coe_fn_injective <| show ((φ₁ : A →+* B) : A → B) = ((φ₂ : A →+* B) : A → B) from congr_arg _ H
 
-theorem coe_monoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →* B) :=
-  RingHom.coe_monoidHom_injective.comp coe_ringHom_injective
+theorem toMonoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →* B) :=
+  RingHom.toMonoidHom_injective.comp coe_ringHom_injective
```
Comment (jjdishere) [inline Mathlib/Algebra/Algebra/Hom.lean]:
```suggestion
theorem coe_monoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →* B) :=
  RingHom.coe_monoidHom_injective.comp coe_ringHom_injective
```

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 2]
```diff
@@ -186,11 +186,11 @@ theorem coe_fn_inj {φ₁ φ₂ : A →ₐ[R] B} : (φ₁ : A → B) = φ₂ ↔
...
 
-theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+ B) :=
-  RingHom.coe_addMonoidHom_injective.comp coe_ringHom_injective
+theorem toAddMonoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+ B) :=
+  RingHom.toAddMonoidHom_injective.comp coe_ringHom_injective
```
Comment (jjdishere) [inline Mathlib/Algebra/Algebra/Hom.lean]:
```suggestion
theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (A →ₐ[R] B) → A →+ B) :=
  RingHom.coe_addMonoidHom_injective.comp coe_ringHom_injective
```

File: Mathlib/Algebra/BigOperators/Pi.lean [hunk 3]
```diff
@@ -142,7 +142,7 @@ variable [∀ i, NonAssocSemiring (R i)]
 @[ext]
 theorem RingHom.functions_ext [Finite I] (S : Type*) [NonAssocSemiring S] (g h : (∀ i, R i) →+* S)
     (H : ∀ (i : I) (x : R i), g (single i x) = h (single i x)) : g = h :=
-  RingHom.coe_addMonoidHom_injective <|
+  RingHom.toAddMonoidHom_injective <|
```
Comment (jjdishere) [inline Mathlib/Algebra/BigOperators/Pi.lean]:
```suggestion
  RingHom.coe_addMonoidHom_injective <|
```

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 4]
```diff
@@ -524,7 +524,7 @@ See note [partially-applied ext lemmas]. -/
 @[ext]
 theorem ringHom_ext' ⦃F G : (⨁ i, A i) →+* R⦄
     (h : ∀ i, (↑F : _ →+ R).comp (of A i) = (↑G : _ →+ R).comp (of A i)) : F = G :=
-  RingHom.coe_addMonoidHom_injective <| DirectSum.addHom_ext' h
+  RingHom.toAddMonoidHom_injective <| DirectSum.addHom_ext' h
```
Comment (jjdishere) [inline Mathlib/Algebra/DirectSum/Ring.lean]:
```suggestion
  RingHom.coe_addMonoidHom_injective <| DirectSum.addHom_ext' h
```

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 5]
```diff
@@ -590,7 +590,7 @@ def liftRingHom :
     ext xi xv
     exact toAddMonoid_of (fun _ => f.1) xi xv
   right_inv F := by
-    apply RingHom.coe_addMonoidHom_injective
+    apply RingHom.toAddMonoidHom_injective
```
Comment (jjdishere) [inline Mathlib/Algebra/DirectSum/Ring.lean]:
```suggestion
    apply RingHom.coe_addMonoidHom_injective
```

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 6]
```diff
@@ -696,7 +696,7 @@ then they are equal. -/]
 lemma ringHom_ext [Semiring S] {f g : R[M] →+* S}
     (h₁ : ∀ r, f (single 1 r) = g (single 1 r)) (h_of : ∀ m, f (single m 1) = g (single m 1)) :
     f = g :=
-  RingHom.coe_addMonoidHom_injective <| addMonoidHom_ext fun m r ↦ by
+  RingHom.toAddMonoidHom_injective <| addMonoidHom_ext fun m r ↦ by
```
Comment (jjdishere) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean]:
```suggestion
  RingHom.coe_addMonoidHom_injective <| addMonoidHom_ext fun m r ↦ by
```

File: Mathlib/Algebra/Ring/Hom/Defs.lean [hunk 7]
```diff
@@ -161,7 +161,7 @@ theorem ext ⦃f g : α →ₙ+* β⦄ : (∀ x, f x = g x) → f = g :=
 theorem mk_coe (f : α →ₙ+* β) (h₁ h₂ h₃) : NonUnitalRingHom.mk (MulHom.mk f h₁) h₂ h₃ = f :=
   ext fun _ => rfl
 
-theorem coe_addMonoidHom_injective : Injective fun f : α →ₙ+* β => (f : α →+ β) :=
+theorem toAddMonoidHom_injective : Injective fun f : α →ₙ+* β => (f : α →+ β) :=
```
Comment (jjdishere) [inline Mathlib/Algebra/Ring/Hom/Defs.lean]:
```suggestion
theorem coe_addMonoidHom_injective : Injective fun f : α →ₙ+* β => (f : α →+ β) :=
```

File: Mathlib/Algebra/Ring/Hom/Defs.lean [hunk 8]
```diff
@@ -449,10 +454,13 @@ theorem ext ⦃f g : α →+* β⦄ : (∀ x, f x = g x) → f = g :=
...
 
-theorem coe_addMonoidHom_injective : Injective (fun f : α →+* β => (f : α →+ β)) := fun _ _ h =>
+theorem toMonoidWithZeroHom_injective : Injective (fun f : α →+* β => (f : α →*₀ β)) := fun _ _ h =>
+  ext <| DFunLike.congr_fun (F := α →*₀ β) h
+
+theorem toAddMonoidHom_injective : Injective (fun f : α →+* β => (f : α →+ β)) := fun _ _ h =>
   ext <| DFunLike.congr_fun (F := α →+ β) h
 
-theorem coe_monoidHom_injective : Injective (fun f : α →+* β => (f : α →* β)) :=
+theorem toMonoidHom_injective : Injective (fun f : α →+* β => (f : α →* β)) :=
```
Comment (jjdishere) [inline Mathlib/Algebra/Ring/Hom/Defs.lean]:
```suggestion
theorem coe_monoidHom_injective : Injective (fun f : α →+* β => (f : α →* β)) :=
```

File: Mathlib/Algebra/Ring/Hom/Defs.lean [hunk 9]
```diff
@@ -449,10 +454,13 @@ theorem ext ⦃f g : α →+* β⦄ : (∀ x, f x = g x) → f = g :=
 theorem mk_coe (f : α →+* β) (h₁ h₂ h₃ h₄) : RingHom.mk ⟨⟨f, h₁⟩, h₂⟩ h₃ h₄ = f :=
   ext fun _ => rfl
 
-theorem coe_addMonoidHom_injective : Injective (fun f : α →+* β => (f : α →+ β)) := fun _ _ h =>
+theorem toMonoidWithZeroHom_injective : Injective (fun f : α →+* β => (f : α →*₀ β)) := fun _ _ h =>
+  ext <| DFunLike.congr_fun (F := α →*₀ β) h
+
+theorem toAddMonoidHom_injective : Injective (fun f : α →+* β => (f : α →+ β)) := fun _ _ h =>
```
Comment (jjdishere) [inline Mathlib/Algebra/Ring/Hom/Defs.lean]:
```suggestion
theorem coe_addMonoidHom_injective : Injective (fun f : α →+* β => (f : α →+ β)) := fun _ _ h =>
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 10]
```diff
@@ -1056,7 +1056,7 @@ theorem ringHom_ext {f g : SkewMonoidAlgebra k G →+* k} (h₁ : ∀ b, f (sing
     (h_of : ∀ a, f (single a 1) = g (single a 1)) : f = g :=
   have {a : G} {b₁ b₂ : k} : (single 1 b₁) * (single a b₂) = single a (b₁ * b₂) := by
     simp [single_mul_single, one_mul, one_smul]
-  RingHom.coe_addMonoidHom_injective <|
+  RingHom.toAddMonoidHom_injective <|
```
Comment (jjdishere) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]:
```suggestion
  RingHom.coe_addMonoidHom_injective <|
```

File: Mathlib/Data/Int/Cast/Lemmas.lean [hunk 11]
```diff
@@ -346,7 +346,7 @@ theorem eq_intCast' (f : ℤ →+* α) : f = Int.castRingHom α :=
   RingHom.ext <| eq_intCast f
 
 theorem ext_int {R : Type*} [NonAssocSemiring R] (f g : ℤ →+* R) : f = g :=
-  coe_addMonoidHom_injective <| AddMonoidHom.ext_int <| f.map_one.trans g.map_one.symm
+  toAddMonoidHom_injective <| AddMonoidHom.ext_int <| f.map_one.trans g.map_one.symm
```
Comment (jjdishere) [inline Mathlib/Data/Int/Cast/Lemmas.lean]:
```suggestion
  coe_addMonoidHom_injective <| AddMonoidHom.ext_int <| f.map_one.trans g.map_one.symm
```

File: Mathlib/GroupTheory/FreeAbelianGroup.lean [hunk 12]
```diff
@@ -504,7 +504,7 @@ def liftMonoid : (α →* R) ≃ (FreeAbelianGroup α →+* R) where
   left_inv f := MonoidHom.ext <| by
     simp only [RingHom.coe_monoidHom_mk, MonoidHom.coe_comp, MonoidHom.coe_mk, OneHom.coe_mk,
       ofMulHom_coe, Function.comp_apply, lift_apply_of, forall_const]
-  right_inv F := RingHom.coe_addMonoidHom_injective <| by
+  right_inv F := RingHom.toAddMonoidHom_injective <| by
```
Comment (jjdishere) [inline Mathlib/GroupTheory/FreeAbelianGroup.lean]:
```suggestion
  right_inv F := RingHom.coe_addMonoidHom_injective <| by
```

File: Mathlib/RingTheory/Coalgebra/Hom.lean [hunk 13]
```diff
@@ -141,38 +138,29 @@ theorem coe_linearMap_mk {f : A →ₗ[R] B} (h h₁) : ((⟨f, h, h₁⟩ : A 
...
-  fun φ₁ φ₂ H => coe_injective <|
+theorem coe_linearMap_injective : Function.Injective ((↑) : (A →ₗc[R] B) → A →ₗ[R] B) :=
+  fun φ₁ φ₂ H => coe_fn_injective <|
     show ((φ₁ : A →ₗ[R] B) : A → B) = ((φ₂ : A →ₗ[R] B) : A → B) from congr_arg _ H
 
-@[deprecated (since := "2026-09-09")] alias coe_linearMap_injective := linearMapOfClass_injective
-
-theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (A →ₗc[R] B) → A →+ B) :=
-  LinearMap.toAddMonoidHom_injective.comp linearMapOfClass_injective
+theorem toAddMonoidHom_injective : Function.Injective ((↑) : (A →ₗc[R] B) → A →+ B) :=
```
Comment (jjdishere) [inline Mathlib/RingTheory/Coalgebra/Hom.lean]:
```suggestion
theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (A →ₗc[R] B) → A →+ B) :=
```

File: Mathlib/RingTheory/GradedAlgebra/AlgHom.lean [hunk 14]
```diff
@@ -126,11 +126,11 @@ theorem coe_linearMap_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R]
 theorem coe_ringHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →+* B) :=
   AlgHom.coe_ringHom_injective.comp coe_toAlgHom_injective
 
-theorem coe_monoidHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →* B) :=
-  AlgHom.coe_monoidHom_injective.comp coe_toAlgHom_injective
+theorem toMonoidHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →* B) :=
```
Comment (jjdishere) [inline Mathlib/RingTheory/GradedAlgebra/AlgHom.lean]:
```suggestion
theorem coe_monoidHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →* B) :=
```

File: Mathlib/RingTheory/GradedAlgebra/AlgHom.lean [hunk 15]
```diff
@@ -126,11 +126,11 @@ theorem coe_linearMap_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R]
...
+  AlgHom.toMonoidHom_injective.comp coe_toAlgHom_injective
```
Comment (jjdishere) [inline Mathlib/RingTheory/GradedAlgebra/AlgHom.lean]:
```suggestion
  AlgHom.coe_monoidHom_injective.comp coe_toAlgHom_injective
```

File: Mathlib/RingTheory/GradedAlgebra/AlgHom.lean [hunk 16]
```diff
@@ -126,11 +126,11 @@ theorem coe_linearMap_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R]
...
 
-theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →+ B) :=
-  AlgHom.coe_addMonoidHom_injective.comp coe_toAlgHom_injective
+theorem toAddMonoidHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →+ B) :=
+  AlgHom.toAddMonoidHom_injective.comp coe_toAlgHom_injective
```
Comment (jjdishere) [inline Mathlib/RingTheory/GradedAlgebra/AlgHom.lean]:
```suggestion
theorem coe_addMonoidHom_injective : Function.Injective ((↑) : (𝒜 →ₐᵍ[R] ℬ) → A →+ B) :=
  AlgHom.coe_addMonoidHom_injective.comp coe_toAlgHom_injective
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 17]
```diff
@@ -543,7 +543,7 @@ theorem monoidHom_ext {P : Type*} [Monoid P] ⦃j k : S →* P⦄
 theorem ringHom_ext {P : Type*} [Semiring P] ⦃j k : S →+* P⦄
     (h : j.comp (algebraMap R S) = k.comp (algebraMap R S)) :
     j = k :=
-  RingHom.coe_monoidHom_injective <| monoidHom_ext M <| MonoidHom.ext <| RingHom.congr_fun h
+  RingHom.toMonoidHom_injective <| monoidHom_ext M <| MonoidHom.ext <| RingHom.congr_fun h
```
Comment (jjdishere) [inline Mathlib/RingTheory/Localization/Defs.lean]:
```suggestion
  RingHom.coe_monoidHom_injective <| monoidHom_ext M <| MonoidHom.ext <| RingHom.congr_fun h
```

File: Mathlib/RingTheory/OreLocalization/Ring.lean [hunk 18]
```diff
@@ -166,7 +166,7 @@ theorem universalHom_commutes {r : R} : universalHom f fS hf (numeratorHom r) =
 
 theorem universalHom_unique (φ : R[S⁻¹] →+* T) (huniv : ∀ r : R, φ (numeratorHom r) = f r) :
     φ = universalHom f fS hf :=
-  RingHom.coe_monoidHom_injective <| universalMulHom_unique (RingHom.toMonoidHom f) fS hf (↑φ) huniv
+  RingHom.toMonoidHom_injective <| universalMulHom_unique (RingHom.toMonoidHom f) fS hf (↑φ) huniv
```
Comment (jjdishere) [inline Mathlib/RingTheory/OreLocalization/Ring.lean]:
```suggestion
  RingHom.coe_monoidHom_injective <| universalMulHom_unique (RingHom.toMonoidHom f) fS hf (↑φ) huniv
```

**Comment by JX-Mo** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/4f50f89900cabc5b71955cd7feb2e4209cc7db22?reference=5dc3889309707722a4f1f84781fa092650bf5eef) for 4f50f89900cabc5b71955cd7feb2e4209cc7db22 against 5dc3889309707722a4f1f84781fa092650bf5eef are in. No significant results found. @JX-Mo

- ✅ `build//instructions`: **-34.5G** (**-0.02%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.RingTheory.Valuation.Discrete.Basic//instructions`: **-1.7G** (**-6.29%**)

**Small changes (12✅)**

- ✅ `build/module/Mathlib.Algebra.Order.Hom.MonoidWithZero//instructions`: **-420.9M** (**-3.89%**)
- ✅ `build/module/Mathlib.Logic.Godel.GodelBetaFunction//instructions`: **-119.6M** (**-1.87%**)
- ✅ `build/module/Mathlib.NumberTheory.Padics.WithVal//instructions`: **-508.7M** (**-2.41%**)
- ✅ `build/module/Mathlib.NumberTheory.RamificationInertia.Valuation//instructions`: **-664.1M** (**-4.67%**)
- ✅ `build/module/Mathlib.RingTheory.DedekindDomain.AdicValuation//instructions`: **-3.8G** (**-3.38%**)
- ✅ `build/module/Mathlib.RingTheory.Valuation.Archimedean//instructions`: **-420.4M** (**-3.54%**)
- ✅ `build/module/Mathlib.RingTheory.Valuation.RankOne//instructions`: **-1.1G** (**-6.98%**)
- ✅ `build/module/Mathlib.RingTheory.Valuation.ValuativeRel.Basic//instructions`: **-1.1G** (**-1.98%**)
- ✅ `build/module/Mathlib.Topology.Algebra.ValuativeRel.ValuativeTopology//instructions`: **-1.5G** (**-5.35%**)
- ✅ `build/module/Mathlib.Topology.Algebra.Valued.ValuationTopology//instructions`: **-1.4G** (**-4.54%**)
- ✅ `build/module/Mathlib.Topology.Algebra.Valued.ValuedField//instructions`: **-7.4G** (**-12.12%**) (reduced significance based on *//lines)
- ✅ `build/module/Mathlib.Topology.Algebra.Valued.WithVal//instructions`: **-1.3G** (**-2.64%**)

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 19]
```diff
@@ -734,9 +723,6 @@ theorem eq_zero (h : v₁.IsEquiv v₂) {r : R} : v₁ r = 0 ↔ v₂ r = 0 := b
   have : v₁ r = v₁ 0 ↔ v₂ r = v₂ 0 := h.eq_iff
   rwa [v₁.map_zero, v₂.map_zero] at this
 
-lemma ofClass_eq_zero (h : v₁.IsEquiv v₂) {r : R} : (MonoidWithZeroHom.ofClass v₁) r = 0 ↔
-  (MonoidWithZeroHom.ofClass v₂) r = 0 := eq_zero h
```
Comment (j-loreaux) [inline Mathlib/RingTheory/Valuation/Basic.lean:738]: This needs a deprecation.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 20]
```diff
@@ -352,19 +361,13 @@ theorem map_one_sub_of_lt (h : v x < 1) : v (1 - x) = 1 := by
   rw [sub_eq_add_neg 1 x]
   simpa only [v.map_one, v.map_neg] using v.map_add_eq_of_lt_left h
 
-lemma OrderMonoidWithZeroHom.ofClass_monotone {F : Type u_1} {α : Type u_2} {β : Type u_3}
-    [LinearOrderedCommMonoidWithZero α] [LinearOrderedCommMonoidWithZero β] [FunLike F α β]
-    [MonoidWithZeroHomClass F α β] {f : F} (hf : Monotone f) :
-    Monotone (MonoidWithZeroHom.ofClass f) := hf
```
Comment (j-loreaux) [inline Mathlib/RingTheory/Valuation/Basic.lean:358]: This too.

File: Mathlib/Topology/Algebra/Valued/ValuedField.lean [hunk 21]
```diff
@@ -340,9 +340,6 @@ noncomputable def extensionValuation : Valuation (hat K) Γ₀ where
 lemma extensionValuation_toFun (x : hat K) : Valued.extensionValuation x =
     ValueGroup₀.embedding (Valued.extension x) := rfl
 
-lemma extensionValuation_coe_apply {x : hat K} :
-    (MonoidWithZeroHom.ofClass extensionValuation) x = embedding (extension x) := rfl
-
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Valued/ValuedField.lean:345]: This needs a deprecation.

File: Mathlib/Topology/Algebra/Valued/ValuedField.lean [hunk 22]
```diff
@@ -461,52 +458,22 @@ set_option backward.isDefEq.respectTransparency.types false in
...
-        simp only [ne_eq, extension_eq_zero_iff, map_eq_zero]
-        intro h
-        simp [h, ← hy] at hb0
-      simp only [map_eq_zero, h0, reduceDIte, h0', WithZero.coe_inj, Subtype.mk.injEq,
-        Units.mk0_inj, embedding_inj] at this
-      simp only [Completion.algebraMap_def, Algebra.algebraMap_self, RingHom.id_apply,
-        extension_extends, Valuation.restrict_inj] at this
-      rwa [← hx, ← hy]
+    simp [embedding_restrict₀, Valuation.coe_toMonoidWithZeroHom] at hx hy
+    simpa [valueGroup₀_hom_extensionValuation, Valuation.restrict_inj, ← hx, ← hy] using hab
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Valued/ValuedField.lean:475]: 😲 😲 😲 (that's insane, but good)

**Review by j-loreaux — COMMENTED** [review]
Looks great, just a few missing deprecations. Thanks!

bors d+

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 19 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Valuation/Basic.lean:738]: Added. Thanks!

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 20 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Valuation/Basic.lean:358]: Thanks. Added.

File: Mathlib/Topology/Algebra/Valued/ValuedField.lean (hunk 21 above)
Comment (jjdishere) [reply Mathlib/Topology/Algebra/Valued/ValuedField.lean:345]: Thanks. Added.
